US06547841B2
1-(2,3-Dihydrobenzofuran-3-ylmethoxy)-2,2,6,6-tetramethylpiperidine
To a solution of 1.95 g (12.5 mmol) of 1-oxyl-2,2,6,6-tetramethylpiperidine, 3.1 g (30 mmol) of tert-butyl nitrite and 7.5 mg (0.012 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II) in 100 mL of pyridine at 65°-70° C. under a nitrogen atmosphere is added dropwise over 20 minutes a solution of 5.6 g (25 mmol) of 2-allyloxyaniline in 20 mL of pyridine. The evolution of gas is observed during the addition of the 2-allyloxyaniline. After the addition is complete, the reaction mixture is kept at 65°-70° C. for an additional forty minutes until gas evolution subsided. After cooling to ambient temperature, the reaction mixture is then concentrated. The residue obtained is purified by vacuum flash chromatography (heptane) to give 2.3 g of a viscous liquid in 63.7% yield. The structure is confirmed by 1Hnmr and elemental analyses.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidine | 12.5 mmol, 1.95 g | ON1C(CCCC1(C)C)(C)C | C9H19NO
reactant | tert-butyl nitrite | 30 mmol, 3.1 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2-allyloxyaniline | 25 mmol, 5.6 g | C(C=C)OC1=C(N)C=CC=C1 | C9H11NO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2,3-Dihydrobenzofuran-3-ylmethoxy)-2,2,6,6-tetramethylpiperidine | 2.3 g, 63.7% yield | O1CC(C2=C1C=CC=C2)CON2C(CCCC2(C)C)(C)C | C18H27NO2
